US07666888B2
5-(2-Chlorophenyl)-4-({3-[(4-methylphenyl)sulfonyl]pyrrolidin-1-yl}carbonyl)isoxazole
The title compound was prepared from 5-(2-chlorophenyl)isoxazole-4-carboxylic acid (11.2 mg, 0.050 mmol) and 3-(4-methylphenylsulfonyl)pyrrolidine hydrochloride (15.7 mg, 0.060 mmol) as described in synthetic method C and thereafter purified by preparative HPLC method B to give a solid (13.3 mg). Calcd for C21H19ClN2O4 S: 430.0754, found 430.0753.

reactant | 5-(2-chlorophenyl)isoxazole-4-carboxylic acid | 0.050 mmol, 11.2 mg | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)O | C10H6ClNO3
reactant | 3-(4-methylphenylsulfonyl)pyrrolidine hydrochloride | 0.060 mmol, 15.7 mg | Cl.CC1=CC=C(C=C1)S(=O)(=O)C1CNCC1
product | 5-(2-Chlorophenyl)-4-({3-[(4-methylphenyl)sulfonyl]pyrrolidin-1-yl}carbonyl)isoxazole | ClC1=C(C=CC=C1)C1=C(C=NO1)C(=O)N1CC(CC1)S(=O)(=O)C1=CC=C(C=C1)C | C21H19ClN2O4S
